US04904653
A solution of bromine in acetic acid (1.03 ml, 10% v/v solution) was added dropwise to a stirred solution of 8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (0.53 g, 2 mmol, hydrochloride salt converted to free base by extraction between dichloromethane and aqueous ammonia) in acetic acid (5 ml) at room temperature. After 30 minutes the mixture was evaporated and the blue coloured solid residue recrystallised from ethanol (10 ml) to give 2-bromo-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrobromide (m.p. 197°).

reactant | bromine | BrBr | Br2
reactant | 8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 2 mmol, 0.53 g | C1(=CC=CC=C1)C1CNCCC2=C1SC=C2 | C14H15NS
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrobromide | Br.BrC1=CC2=C(C(CNCC2)C2=CC=CC=C2)S1 | InChI=1S/C14H14BrNS.BrH/c15-13-8-11-6-7-16-9-12(14(11)17-13)10-4-2-1-3-5-10;/h1-5,8,12,16H,6-7,9H2;1H
